US04145347
From 7.0 g. of methyl 2-oxo-4-phenyl-1-pyrrolidineacetate and 5.0 g. of cis-2-(2,6-dimethyl-1-piperidinyl)-ethylamine, following the procedure of Example 9, there is obtained cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-oxo-4-phenyl-1-pyrrolidineacetamide; m.p. 115°-116° C. after recrystallization from cyclohexane.

reactant | methyl 2-oxo-4-phenyl-1-pyrrolidineacetate | O=C1N(CC(C1)C1=CC=CC=C1)CC(=O)OC | C13H15NO3
reactant | cis-2-(2,6-dimethyl-1-piperidinyl)-ethylamine | C[C@@H]1N([C@@H](CCC1)C)CCN | C9H20N2
product | cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-oxo-4-phenyl-1-pyrrolidineacetamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(CC(C1)C1=CC=CC=C1)=O)=O | C21H31N3O2
